US05591762
4'-[[2-n-Propyl-4-methyl-6-(1-ethyl-4,5-dimethyl-imidazol-2-yl)-1H-benzimidazol-1-yl]-methyl]-biphenyl-2-carboxylic Acid
Prepared analogously to Example 146 from tert.butyl 4'-[[2-n-propyl-4-methyl-6-(4,5-dimethyl-oxazol-2-yl)-1H-benzimidazol-1-yl]-methyl]-biphenyl-2-carboxylate and N-ethylformamide/ethylamine.

reactant | tert.butyl 4'-[[2-n-propyl-4-methyl-6-(4,5-dimethyl-oxazol-2-yl)-1H-benzimidazol-1-yl]-methyl]-biphenyl-2-carboxylate | C(CC)C1=NC2=C(N1CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)OC(C)(C)C)C=C(C=C2C)C=2OC(=C(N2)C)C | C34H37N3O3
reactant | N-ethylformamide ethylamine | C(C)NC=O.C(C)N
product | 4'-[[2-n-Propyl-4-methyl-6-(1-ethyl-4,5-dimethyl-imidazol-2-yl)-1H-benzimidazol-1-yl]-methyl]-biphenyl-2-carboxylic Acid | C(CC)C1=NC2=C(N1CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)O)C=C(C=C2C)C=2N(C(=C(N2)C)C)CC | C32H34N4O2
